US07863305B2
4-MethoxyIndole-3-carboxaldehyde (5.0 g) and Meldrum's acid (2,2-Dimethyl-[1,3]dioxane-4,6-dione, 4.11 g) were mixed in toluene (200 ml). To this mixture was added 0.6 ml each of piperidine and acetic acid. The reaction mixture was stirred at room temperature for four hours. The precipitate was filtered and washed with toluene to afford 4.25 g of crude 5-(4-methoxy-1H-indol-3-ylmethylene)-2,2-dimethyl-[1,3]dioxane-4,6-dione as an orange solid which was used without further purification.

reactant | 4-MethoxyIndole-3-carboxaldehyde | 5.0 g | COC1=C2C(=CNC2=CC=C1)C=O | C10H9NO2
reactant | Meldrum's acid | 4.11 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | piperidine | 0.6 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-methoxy-1H-indol-3-ylmethylene)-2,2-dimethyl-[1,3]dioxane-4,6-dione | 4.25 g | COC1=C2C(=CNC2=CC=C1)C=C1C(OC(OC1=O)(C)C)=O | C16H15NO5
